US07943607B2
3-[(1,1-Dioxido-2,3-dihydro-1-benzothien-5-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a solution of 3-[(1,1-dioxido-1-benzothien-5-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (113 mg, 0.24 mmol) in ethanol (2.5 mL) was added ammonium formate (152 mg, 2.40 mmol) and 10% palladium on charcoal (25 mg) and the resultant mixture heated at 140° C. for 10 minutes in a microwave reactor. The catalyst was filtered and the residue reduced, taken up in DCM plus a little methanol and transferred to a silica cartridge, eluted with 0-3% methanol in DCM, to give the desired compound as a clear foam (65 mg).

reactant | 3-[(1,1-dioxido-1-benzothien-5-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.24 mmol, 113 mg | O=S1(C=CC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](COC)C)=O | C23H23N3O6S
reactant | ammonium formate | 2.40 mmol, 152 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 25 mg | [Pd] | Pd
product | 3-[(1,1-Dioxido-2,3-dihydro-1-benzothien-5-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 65 mg | O=S1(CCC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](COC)C)=O | C23H25N3O6S
